US06521666B1
4-(N-Allyl-N-tert-butoxycarbonylamino)-2,6-dimethoxybenzeneboronic acid and N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester were coupled by a similar method as described in Example 7-2) to give N-(2,6-dichlorobenzoyl)-4-[-4-(N-allyl-N-tert-butoxycarbonylamino)-2,6-dimethoxyphenyl]-L-phenylalanine methyl ester.

reactant | 4-(N-Allyl-N-tert-butoxycarbonylamino)-2,6-dimethoxybenzeneboronic acid | C(C=C)N(C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)OC)B(O)O)OC | C16H24BNO6
reactant | N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C18H14Cl2F3NO6S
product | N-(2,6-dichlorobenzoyl)-4-[-4-(N-allyl-N-tert-butoxycarbonylamino)-2,6-dimethoxyphenyl]-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)N(C(=O)OC(C)(C)C)CC=C)OC)=O | C33H36Cl2N2O7
